Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
diarrhea, rash, orthopnea 
 
Major Surgical or Invasive Procedure:
___
PROCEDURE PERFORMED:
1. Cystoscopy.
2. Left double-J ureteral stent exchange.

___
Bone Marrow Biopsy

 
History of Present Illness:
Ms. ___ is a ___ woman with history of follicular lymphoma, 
grade  II/III, recenntly d/c'd for allogeneic hematopoietic stem 
cell transplantation (day 37) presenting from clinic with 
diarrhea and rash.  

The following is from ___ and confirmed with patient and her 
husband:  She reports that she tripped on ___ evening when 
getting up to the bathroom and fell on her right side.  She did 
not call to report this fall, but she has no increased pain on 
her back and hip.  She states that she stayed in bed most of the 
day yesterday as she "did not feel well" although could not 
specify her symptoms.  She noted feeling more short of breath 
particularly when lying flat and she needed to sleep with 2 
pillows last night. She also endorses cough. Her lower extremity 
edema has remained an issue although somewhat improving.  She 
continues with a deep congested cough which has also increased 
over the past 2 days with continual clearing of her throat. 
Chest xray on ___ showed moderate pleural effusions but 
appeared euvolemic.  Her BNP remained elevated at over 4000.  
She was to start Lasix 20 mg every other day as of ___ 
but this was not picked up from the pharmacy.  Repeat 
echocardiogram done on ___ showed a low normal left 
ventricular systolic function(LVEF 50-55%). 

Ms. ___ and ___ her husband report that day prior to admission 
she had episode of diarrhea that came on suddenly.  She could 
not make it to the bathroom in time.  She had repeat episode the 
following day.  Per OMR, she had another episode of diarrhea 
today in clinic
which is not her usual pattern.  She also is noted for increased
erythema of her face and upper chest as well as her legs with
some erythematous plaques noted.  CMV VL was positive from
___ and she was started on Valcyte 450 mg twice per day 
as
of today(dosed by lower creat clearance).

Ms. ___ is being admitted due to increasing diarrhea with rash
for asseesment of GVHD vs. infection.  Her fluid status and
pleural effusions need to be evaluated in the setting of high
BNP. 

REVIEW OF SYSTEMS:
(+) Per HPI.
Denies fever, chills, night sweats, headache, vision changes,   
chest pain, abdominal pain, nausea, vomiting, constipation, 
BRBPR, melena, hematochezia, dysuria, hematuria (none since 
discharge). 

 
Past Medical History:
HEMATOLOGIC HISTORY:
--Follicular lymphoma, grade II/III, diagnosed in ___ from a
right core breast biopsy.  Immunostain showed many B-cells to be
CD20 positives that co-express Bcl-6 and Bcl-2 (bright) but not
CD5.  Imaging at that time by report showed several scattered
lymph nodes throughout the torso.  The bone marrow biopsy at 
that time showed involvement by a low-grade lymphoma.
 --Received Rituxan alone initially, then moved to R-CHOP as by
report had no significant response to monotherapy.
 --Noted progression of lymph node in the right axilla with
biopsy showing diffuse large B-cell lymphoma with atypical cells
positive for Bcl-6, Bcl-2, PAX5 and negative for CD10.  Ki-67 is
variable with proliferation fraction at least 50%, supporting
transformation to diffuse large B-cell lymphoma.
 --Treated with Rituxan/ICE followed by autologous stem cell
transplant in ___.
 --With area of concern in the spine that was persistent;
received radiation to the mid thoracic area, completing in
___.
 --Noted recurrence, received six cycles of R-bendamustine
completed in ___.
 --Moved to treatment with R-panobinostat on protocol ___,
completing in ___ followed by maintenance panobinostat, which
showed stabilization of extensive disease.
 --With disease progression, started on protocol ___ 
anti-CD22
monoclonal antibody from ___ to ___, which was stopped 
due
to a neuropathy, although with noted significant response.
 --Treated with Rituxan/Revlimid from ___ to ___.
 --___, admitted to ___ with increasing back pain with 
imaging
noting marked progression of paraspinal mass with likely nerve
encroachment; also progression of pleural based mass.   
 --___ - ___, XRT to T12- L5 for total 3600 cGY

-C1 EPOCH-R at dose level 1 ___ (received RTX d0)

OTHER PAST MEDICAL HISTORY:
1.  Hypothyroidism.
2.  Osteoporosis.
3.  Ureteral obstruction with ureteral stent placed in ___,
remains in place, question related to lymph node enlargement at
the time of obstruction.
4.  TIA in ___ with noted vertigo, no other episodes noted.
5.  Cataracts, left eye surgery ___.

Other Past Medical History 
Hypothyroidism
Osteoporosis
Ureteral obstruction with ureteral stent placed in ___, which
ramains in place
TIA in ___
Gravida 4, para 3, all vaginal deliveries
Cataracts removed ___

 
Social History:
___
Family History:
Father with prostate cancer. One brother with prostate cancer. 
She has two brothers, one of which also has prostate cancer.  
Her other brother has screening colonoscopies frequently due to 
a previous noted adenomas.  No family history of lymphoma or 
other hematologic malignancy.
 
Physical Exam:
Admission Physical Exam:
========================
VITALS - 98.7 112 120/78 22 95% RA 15  
General: pleasant, speaking in full sentences, NAD 
HEENT: normocephalic, atraumatic, EOMMI, PERRLA, no oral mucosal 
lesions   
Neck: no LAD    
CV: tachycardia, no murmurs, rubs, gallops   
Lungs: clear to auscultation, + cough
Abdomen: soft, ? rash around umbilicus 
GU: deferred 
Ext: +2 edema to knees, + macules non blanching on shin   
Neuro: alert and orientated but unreliable historian

Discharge Physical Exam:
========================
VITALS: 97.7, 112/60, HR 85, RR 18, 95% RA wt 116.3 lbs
General: pleasant, NAD 
HEENT: normocephalic, atraumatic, EOMMI, PERRLA, no oral mucosal 
lesions   
Neck: no LAD    
CV: tachycardia, no murmurs, rubs, gallops   
Lungs: clear to auscultation bilaterally, no crackles. 
Abdomen: soft, non-tender, normal bowel sounds
Ext: Trace pedal edema. 
Skin: Maculopapular rash on arms and legs, non-blanching without 
excoriations, much improved, almost resolved. No evidence on 
back or abdomen.  
Neuro: alert and orientated, CN II-XII intact

 
Pertinent Results:
Admission Labs:
=================
___ 08:45AM BLOOD WBC-4.6 RBC-2.78* Hgb-9.4* Hct-28.4* 
MCV-102* MCH-34.0* MCHC-33.3 RDW-20.6* Plt Ct-79*
___ 08:45AM BLOOD Neuts-75* Bands-0 Lymphs-12* Monos-9 
Eos-4 Baso-0 ___ Myelos-0
___ 08:45AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-NORMAL 
Macrocy-1+ Microcy-NORMAL Polychr-1+
___ 08:45AM BLOOD Plt Smr-VERY LOW Plt Ct-79*
___ 08:45AM BLOOD UreaN-15 Creat-1.1 Na-133 K-3.8 Cl-100 
HCO3-24 AnGap-13
___ 08:45AM BLOOD ALT-21 AST-42* LD(LDH)-380* AlkPhos-152* 
TotBili-0.6
___ 08:45AM BLOOD Albumin-2.9* Calcium-8.1* Phos-3.0 Mg-1.6

Discharge Labs:
================
___ 12:02AM BLOOD WBC-2.2* RBC-2.32* Hgb-8.0* Hct-24.2* 
MCV-104* MCH-34.5* MCHC-33.0 RDW-19.0* Plt Ct-63*
___ 12:02AM BLOOD Glucose-124* UreaN-16 Creat-0.9 Na-132* 
K-4.3 Cl-97 HCO3-29 AnGap-10
___ 12:02AM BLOOD ALT-16 AST-30 AlkPhos-175* TotBili-0.4
___ 12:02AM BLOOD Calcium-8.5 Phos-3.5 Mg-1.9

Studies and Microbiology:
==========================
Pleural Studies:
___ 2:32 pm PLEURAL FLUID PLEURAL EFFUSION RIGHT. 
GRAM STAIN (Final ___: 
1+ (<1 per 1000X FIELD): POLYMORPHONUCLEAR LEUKOCYTES. 
NO MICROORGANISMS SEEN. 
FLUID CULTURE (Final ___: NO GROWTH. 
ANAEROBIC CULTURE (Preliminary): NO GROWTH. 

___ 2:33 pm PLEURAL FLUID PLEURAL LEFT EFFUSION. 
GRAM STAIN (Final ___: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
NO MICROORGANISMS SEEN. 
FLUID CULTURE (Final ___: NO GROWTH. 
ANAEROBIC CULTURE (Preliminary):  NO GROWTH. 

Pleural Fluid (Right Effusion) ___:
DIAGNOSIS: 

FLOW CYTOMETRY REPORT 
FLOW CYTOMETRY IMMUNOPHENOTYPING 
The following tests (antibodies) were performed ___, ___-7, 
kappa, lambda and CD antigens 3,5,10,19,20,23 and 45.

RESULTS:
Three color Gating is performed (light scatter vs. CD45) to 
optimize lymphocyte yield. CD45-bright, low side scatter gated 
lymphocytes comprise 58% of total analyzed events. B cells are 
scant in number precluding evaluation of clonality. T cells 
comprise 97% of lymphoid gated events and express mature lineage 
antigens CD3, CD5. 

INTERPRETATION
Nonspecific T cell dominant lymphoid profile; diagnostic 
immunophenotypic features of involvement by non-Hodgkin B-cell 
lymphoma are not seen in specimen. Correlation wit clinical 
findings is recommended. Flow cytometry immunophenotyping may 
not detect all abnormal populations due to topography, sampling 
or artifacts of sample preparation. 

Pleural Fluid Left ___:
DIAGNOSIS:
FLOW CYTOMETRY REPORT 
FLOW CYTOMETRY IMMUNOPHENOTYPING 
The following tests (antibodies) were performed: ___, ___-7, 
Kappa, Lambda, and CD antigens 3,5,10,19,20,23 and 45. 

RESULTS:
Three color gating is performed (light scatter vs. CD45) to 
optimize lymphocyte yield. CD45-bright, low side scatter gated 
lymphocytes comprise 81% of total analyzed events. B cells are 
absent precluding evaluation of clonality. T cells comprise 94% 
of lymphoid gated events and express mature lineage antigens 
CD43, CD5. No abnormal events are identified in the "blast 
gate."

INTERPRETATION
Non-specific T cell dominant lymphoid profile; diagnostic 
immunophenotypic features of involvement by lymphoma are not 
seen in specimen. Correlation with clinical findings is 
recommended. Flow cytometry immunophenotyping may not detect all 
abnormal populations due to topography, sampling or artifacts of 
sample preparation. 

___ 11:05 pm URINE      Source: ___. 

**FINAL REPORT ___
URINE CULTURE (Final ___: 
ESCHERICHIA COLI.  10,000-100,000 ORGANISMS/ML.. PRESUMPTIVE 
IDENTIFICATION. ENTEROCOCCUS SP..10,000-100,000 ORGANISMS/ML.. 

SENSITIVITIES: MIC expressed in MCG/ML
                    
______________________________________________________
                             ESCHERICHIA COLI
                             |          ENTEROCOCCUS SP.
                             |          |   
AMIKACIN--------------   <=2 S
AMPICILLIN------------  =>32 R     =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
LINEZOLID-------------                1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S      128 R
PIPERACILLIN/TAZO-----   <=4 S
TETRACYCLINE----------             =>16 R
TOBRAMYCIN------------     8 I
TRIMETHOPRIM/SULFA----  =>16 R
VANCOMYCIN------------             =>32 R

___ 12:15 am Immunology (CMV)  
**FINAL REPORT ___
CMV Viral Load (Final ___: CMV DNA not detected. 
Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
Linear range of quantification: 137 IU/mL - 9,100,000 IU/mL. 
Limit of detection 91 IU/mL. 

___ 12:07 am Immunology (CMV)      
**FINAL REPORT ___
CMV Viral Load (Final ___: 
CMV DNA detected, less than 137 IU/mL. 
Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
Linear range of quantification: 137 IU/mL - 9,100,000 IU/mL. 
Limit of detection 91 IU/mL. 
This test has been verified for use in the ___ patient 
population.

___ 6:03 pm CSF;SPINAL FLUID      Source: LP TUBE #3. 
GRAM STAIN (Final ___: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
NO MICROORGANISMS SEEN. 
FLUID CULTURE (Final ___: NO GROWTH. 
FUNGAL CULTURE (Preliminary):  NO FUNGUS ISOLATED. 
Enterovirus Culture (Final ___: No Enterovirus isolated. 

STOOL STUDIES:
================
___ 12:15 am Immunology (CMV)    
**FINAL REPORT ___
CMV Viral Load (Final ___: 
CMV DNA not detected. 
Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
Linear range of quantification: 137 IU/mL - 9,100,000 IU/mL. 
Limit of detection 91 IU/mL. 
   
___ 11:08 pm STOOL  CONSISTENCY: NOT APPLICABLE
Source: Stool. **FINAL REPORT ___

C. difficile DNA amplification assay (Final ___: 
Negative for toxigenic C. difficile by the Illumigene DNA 
amplification assay. 
          
___ 3:12 pm STOOL     CONSISTENCY: SOFT

**FINAL REPORT ___
C. difficile DNA amplification assay (Final ___: 
Negative for toxigenic C. difficile by the Illumigene DNA 
amplification assay. 
            
FECAL CULTURE (Final ___:  NO SALMONELLA OR SHIGELLA 
FOUND. 
CAMPYLOBACTER CULTURE (Final ___: NO CAMPYLOBACTER FOUND. 
OVA + PARASITES (Final ___: 
NO OVA AND PARASITES SEEN. 
This test does not reliably detect Cryptosporidium, Cyclospora 
or
Microsporidium. While most cases of Giardia are detected by 
routine
O+P, the Giardia antigen test may enhance detection when 
organisms are rare. 

FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO FOUND. 

FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 
FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: NO E.COLI 
0157:H7 FOUND. 

Imaging:
========
CT chest ___: 
Increased bilateral pleural effusions, right greater than left, 
is the only suggestion of intrathoracic malignancy.  No 
adenopathy or lung nodules. New mild alveolar opacification, 
anterior segment of the upper lobes, right greater than left, of 
uncertain significance. This could be residual edema, pulmonary 
hemorrhage, or early infection. Is probably not lymphoma.
 
Mid thoracic vertebral compression fracture stable new since ___, stable since ___. No no other bone lesions.
 
Atherosclerotic calcification involving at least the left 
circumflex coronary artery.

MRI head ___: 
1. No acute infarct or suspicious focus of hemorrhage or focus 
of abnormalenhancement in the brain parenchyma or meninges.
2. Nonspecific white matter changes described above, which are 
compatible with small vessel ischemic disease in patient of this 
age.

Lung Scan ___: IMPRESSION: Matched ventilation/perfusion 
defects with airways disease predominating.  Low likelihood 
ratio for acute pulmonary embolism.

Echocardiogram ___:
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). There is mild regional left 
ventricular systolic dysfunction with septal hypokinesis. There 
is no ventricular septal defect. Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. An eccentric, posteriorly 
directed jet of Mild to moderate (___) mitral regurgitation is 
seen. The tricuspid valve leaflets are mildly thickened. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. There are no echocardiographic signs of 
tamponade. 

IMPRESSION: Mild regional left ventricular systolic dysfunction. 
Mild to moderate mitral regurgitation directed posteriorly. 
Bilateral pleural effusions. Small pericardial effusion without 
evidence of tamponade physiology. 

Compared with the prior study (images reviewed) of ___, 
the findings are similar. 

CTA CHEST ___:
IMPRESSION:  
1.  No evidence of pulmonary embolism. 
2.  Interval decrease in right sided pleural effusion when 
compared to most recent examination dated ___.  
Right sided pigtail catheter noted. 
3.  Peribronchial ground glass opacities re-demonstrated, 
predominantly within the right upper lobe, which appears less 
conspicuous on current examination.  Differential remains the 
same and includes edema, pulmonary hemorrhage or early 
infection. 
4.  No appreciable adenopathy. 
5.  Stable mild thoracic vertebral compression fracture. 

 
Brief Hospital Course:
___ woman with history of follicular lymphoma, grade  II/III, 
recenntly d/c'd for allogeneic hematopoietic stem cell 
transplantation (day ___) who initially presented from clinic 
with diarrhea, orthopnea, and rash found to have E. Coli and VRE 
bacteremia, heart failure exacerbation, and altered mental 
status all of which resolved prior to discharge.

# Diastolic heart failure, Orthopnea, and Hypoxia:  
Patient presented with orthopnea and lower extremity edema 
concerning for diastolic heart failure exacerbation. BNP noted 
to be elevated. CXR and CT noted to have  pleural effusions with 
small pericardial effusion. V/Q scan obtained that ruled out PE. 
Patient diuresed with 40 mg IV lasix daily until euvolemic. 
Patient also received bilateral thorocentesis that was 
consistent with transudative process in setting of diastolic 
heart failure. Repeat TTE was obtained that showed small 
pericardial effusion though no tamponade physiology with normal 
EF. PO lasix 20 mg every other day was started prior to 
discharge. Patient noted to have 2L oxygen requirement 
throughout most of hospital course that improved to RA prior to 
discharge. The patient will follow up in cardiology clinic on 
___.

# Pleural Effusions, transudative in nature:
Patient noted to have bilateral pleural effusions that responded 
to some degree with diuresis. Patient also received bilateral 
thoracentesis for drainage. Thoracentesis studies were 
consistent with transudative process in setting of CHF above and 
did not show any evidence of infection or lymphoma. CTA chest 
obtained to rule out PE or pleural based process as etiology of 
effusions. Right upper lobe finding on CT chest thought to be 
consistent with pulmonary edema secondary to MR regurgitant jet. 
Patient followed closely by pulmonary as inpatient who suggested 
repeat CT chest with contrast in ___ weeks or sooner if clinical 
change occurs. Should there be persistent or worsened 
abnormalities on chest CT then patient should then be seen in 
general pulmonary clinic. Pulmonary also recommended repeat full 
PFTs (spirometry with bronchodilator testing, DLCO, lung 
volumes) when approaches euvolemic and stable. Also suggested 
follow-up in interventional pulmonary ___ clinic if 
re-accumulation of effusions.

# Complicated UTI: E. coli and VRE positive urine culture 
Patient noted to have E. Coli and VRE positive urine culture 
with resistance to ceftriaxone and cefepime. Patient was treated 
with Meropenem 1000 mg IV Q12H for gram negative and gram 
positive coverage as well as Daptomycin 250 mg IV Q24H for VRE 
coverage. Patient had left ureteral stent replaced during 
hospital course on ___ and as such meropenum and daptomycin 
were continued until one day post-op. She remained afebrile in 
the week prior to discharge following cessation of antibiotics.

#Follicular lymphoma, grade  II/III s/p allogeneic hematopoietic 
stem cell transplantation (day 65). CMV and EBV viral loads were 
monitored weekly. Patient was placed on prophylaxis with 
atovaquone, fluconazole, and valgancyclovir. Given anemia and 
thrombocytopenia patient had repeat peripheral smear chimerism 
study as well as bone marrow biopsy to evaluate the status of 
her graft. These studies were pending at time of discharge and 
should be followed up. The preliminary read for the bone marrow 
biopsy at time of discharge was not consistent with process that 
would require further hospitalization.

#Neutropenia
The patient was noted to be neutropenic on day of discharge with 
ANC of ~500. It was thought that this could be secondary to drug 
effect from buproprion vs. valgancyclovir. Neupogen was started 
on day of discharge to follow up counts in clinic on follow up 
and to consider repeat neupogen dosing as needed. In addition it 
was thought that buproprion could also gradually be tapered to 
eliminate its potential side effect of leukopenia.

# Poor PO intake/ Hypoalbumin: Patient noted to have poor PO 
intake and to be malnourished during hospital course. Nutrition 
followed patient and suggested calorie count with encouragement 
of 1500 calories/day. Her PO intake improved in the week prior 
to discharge. 

# Altered Mental Status: 
Patient noted to have altered mental status initially on 
admission and throughout first part of hospital course. MRI head 
obtained that was within normal limits. LP also obtained and was 
unrevealing. Some concern for cyclosporin toxicity and as such 
levels were closely monitored and adjusted accordingly. In 
addition doses of patient's gabapentin, oxycodone, and oxycontin 
were all decreased as well that was also thought to contribute 
to resolution of patient's altered mental status. These lower 
doses were continued at time of discharge. In addition patient's 
cyclosporin level was checked every ___ days and seemed to have 
no effect on patient's mental status when in the 200-215 range. 
Patient's mental status improved back to baseline prior to 
discahrge. 

# Acute Kidney Injury/ Left Hydronephrosis:
Patient with noted ___ on admission in setting of known 
hydronephrosis on left, which is where urethral stent is located 
(placed ___. Urology consulted who felt that 
replacement of stent was non-urgent but that it could be 
complicated when patient was optimized from volume status. Once 
patient was optimally diuresed she had replacement of her 
ureteral stent on ___ without complication. Perioperative 
meropenum and daptomycin were continued in setting of her known 
complicated UTI. Patient's renal function returned to normal in 
the weeks prior to discharge. Her operative report was requested 
to be sent to her ___ urologist Dr. ___ fax #: 
___. 

#Hematuria:
Patient has known hematuria that has been worked up as much as 
it can be given that she is post transplant. It was noted to 
resolve prior to discharge. Please follow up hematuria
 
# CMV viremia:
Patient noted to have CMV viremia. Viral loads were checked 
weekly and noted to downtrend and were undetectable on ___. 
Patient initially on gancyclovir IV dosing that was then 
transitioned to PO dosing of 450 mg twice daily. It was thought 
that valgancyclovir should be continued for 1 week following 
undetectable levels until ___. The patient was discharged 
with twice a day dosing to complete on ___. Repeat CMV 
viral load should be checked on ___ to ensure it remains 
undetectable.   
 
# Diarrhea: 
Mrs. ___ was noted to have 3 episodes of sudden onset diarrhea 
associated with fatigue on admission. Given proximity to allo 
stem cell transplant there was concern for acute GVHD. Other 
possible sources of diarrhea included CMV colitis, c. diff, and 
other bacterial infections as causative agents explored though 
all were negative (see results section, stool studies). Patient 
also noted that at baseline she had diarrhea and stool 
incontinence prior to hospital course secondary to pelvic 
radiation. 

# Rash: 
Patient presented with rash on legs that was concerning 
intitially for GVHD vs. rash of stasis. Rash noted to improve 
with diuresis and was thought to most likely be secondary to 
stasis. On ___ patient noted to have maculopapular rash on 
arms and legs without involvment of back or abdomen. Dermatology 
was consulted and felt patient's rash was most likely petichial 
in nature in setting of thrombocytopenia and did not biopsy. 
Rash was monitored with significant improvement in the days 
prior to discharge. As needed aquaphor was used with improvement 
of rash and continued on discharge. 
 
# Transaminitis
Patient with initial transaminitis in hepatocellular pattern. 
Initial concern for GVHD though thought to be less likely given 
normal bilirubin levels. Most likely cause of transaminitis waws 
thought to be possible drug effect. Transaminases were trended 
throughout hospital course and noted to be downtrending and 
returned within normal limit in the week prior to discharge. 

# Hypothyroidism:
Levothyroxine was continued

# Back pain: 
She has known pathologic fracture from likely prior lymphomatous 
involvement of L3 vertebral end plate. Evaluated by spine 
surgery prior to admission with plan for nonsurgical management. 
Back brace, oxycodone and oxycontin (decreased dose), as well as 
gabapentin continued throughout hospital course for pain 
control. 

# GERD: 
Pantoprazole continued throughout hospital course

# Depression:
Buproprion continued throughout hospital course.

Transitional Issues:
====================
-please f/u CBC with differential and chem 7 on ___ and ___
-consider continuation of neupogen if ANC not > 1500
-please check CMV viral load on ___ to ensure it is 
undetectable.
-Valgancyclovir supply given for one month. Total course to be 
determined pending CMV viral load on ___
-patient given 1 dose of neupogen prior to discharge due to 
neutropenia. Absoulte neutrophil count to be followed up to 
determine further need for neupogen (prescription provided)
-Patient's neutropenia also though to be somewhat effected by 
buproprion. This should likely be tapered and other 
anti-depressant option considered.  
-please follow up peripheral smear chimerism and final report of 
bone marrow biopsy that were pending at time of discharge
- Patient has known hematuria that has been worked up as much as 
it can be given that she is post transplant.  Follow up 
hematuria. Patient's urologist is Dr. ___ at ___
- repeat chest CT without contrast in ___ weeks to follow up RUL 
ground glass opacity, if persistently abnormal then can follow 
up with general pulmonary clinic
- repeat full PFTs (spirometry with bronchodilator testing, 
DLCO,
lung volumes) as outpatient
- follow-up in interventional pulmonary ___ clinic if 
re-accumulation of effusions

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion 75 mg PO BID 
2. Docusate Sodium 200 mg PO BID constipation 
3. Gabapentin 300 mg PO BID 
4. Lactulose 15 mL PO DAILY:PRN constipation 
5. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
6. Fluconazole 400 mg PO Q24H 
7. FoLIC Acid 1 mg PO DAILY 
8. LOPERamide 2 mg PO QID:PRN after each loose stool 
9. Multivitamins 1 TAB PO DAILY 
10. Mycophenolate Mofetil 1000 mg PO BID 
11. Pantoprazole 40 mg PO Q24H 
12. Methocarbamol ___ mg PO QID:PRN back pain/spasms 
13. Ondansetron 8 mg PO Q8H:PRN nausea 
14. Levothyroxine Sodium 125 mcg PO DAILY 
15. Lidocaine 5% Patch 1 PTCH TD QPM 
16. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
17. OxyCODONE SR (OxyconTIN) 20 mg PO Q12H 
18. Senna 8.6-17.2 mg PO TID:PRN constipation 
19. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
20. Lorazepam 0.5-1 mg PO HS 
21. Ursodiol 300 mg PO BID 
22. CycloSPORINE (Neoral) MODIFIED 100 mg PO Q12H 
23. OLANZapine (Disintegrating Tablet) 2.5-5 mg PO BID:PRN 
nausea, insomnia 
24. Atovaquone Suspension 1500 mg PO DAILY 
25. Furosemide 20 mg PO EVERY OTHER DAY 
26. ValGANCIclovir 450 mg PO Q12H 
27. Prochlorperazine 10 mg PO Q8H:PRN nausea  

 
Discharge Medications:
1. Atovaquone Suspension 1500 mg PO DAILY 
2. BuPROPion 75 mg PO BID 
3. Fluconazole 400 mg PO Q24H 
4. Furosemide 20 mg PO EVERY OTHER DAY 
RX *furosemide 20 mg 1 tablet(s) by mouth every other day Disp 
#*30 Tablet Refills:*0
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. FoLIC Acid 1 mg PO DAILY 
7. Lidocaine 5% Patch 1 PTCH TD QPM 
8. LOPERamide 2 mg PO QID:PRN after each loose stool 
9. Multivitamins 1 TAB PO DAILY 
10. Mycophenolate Mofetil 750 mg PO BID 
RX *mycophenolate mofetil [CellCept] 250 mg 1 capsule(s) by 
mouth twice a day Disp #*60 Capsule Refills:*1
11. OxyCODONE SR (OxyconTIN) 10 mg PO Q12H 
RX *oxycodone [OxyContin] 10 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*60 Tablet Refills:*0
12. Pantoprazole 40 mg PO Q24H 
13. Aquaphor Ointment 1 Appl TP TID:PRN rash on arms and legs 
RX *white petrolatum [Aquaphor with Natural Healing] 41 % Apply 
to dry skin three times a day Refills:*0
14. Docusate Sodium 200 mg PO BID constipation 
RX *docusate sodium [Colace] 100 mg 2 capsule(s) by mouth twice 
a day Disp #*120 Capsule Refills:*0
15. Lactulose 15 mL PO DAILY:PRN constipation 
16. OLANZapine (Disintegrating Tablet) 2.5-5 mg PO BID:PRN 
nausea, insomnia 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
18. Senna 8.6-17.2 mg PO TID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 tab by mouth three times a day 
Disp #*90 Capsule Refills:*0
19. Gabapentin 300 mg PO DAILY 
RX *gabapentin 300 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
20. CycloSPORINE (Neoral) MODIFIED 50 mg PO Q12H 
RX *cyclosporine modified 50 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*60 Capsule Refills:*1
21. ValGANCIclovir 450 mg PO BID 
RX *valganciclovir [Valcyte] 450 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0
22. Ondansetron 8 mg PO Q8H:PRN nausea 
23. OxycoDONE (Immediate Release)  5 mg PO Q8H:PRN breakthrough 
pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every eight (8) hours 
PRN Disp #*90 Capsule Refills:*0
24. Filgrastim 300 mcg SC Q24H 
RX *filgrastim [Neupogen] 300 mcg/0.5 mL 300 mcg scubcutaneous 
once a day Disp #*30 Syringe Refills:*0

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Primary Diagnosis:
Complicated Urinary Tract Infection
Bilateral Pleural Effusions
Follicular Lymphoma
Diastolic Heart Failure Exacerbation
Altered Mental Status

Secondary Diagnosis:
Fracture of L3 vertebra and endplate
Hypothyroidism
Osteoporosis
History of TIA
Cataracts (left eye)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___,

___ was a pleasure being involved in your care. You were admitted 
to the hospital. You were found to have a urinary tract 
infection and received a course of IV antibiotics for your 
infection. You were also found to have altered mental status 
that resolved once we decreased the dose of some of your 
medications. You also were found to have fluid in the lining 
around your lungs that was drained. Your ureteral stent was also 
replaced while you were here. Records of this procedure were 
faxed to Dr. ___ at ___. You also worked with physical therapy 
and the nutritionist to help regain your strength and maximize 
your nutrition.

Sincerely,
Your ___ Team
 
Followup Instructions:
___